US07538112B2
Step 3: 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-N,N,8-trimethyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-4-sulfonamide
A mixture of 2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-4-sulfonic acid (32 mg, 68 μmol), anhydrous DMF (11 μL, 0.14 mmol), and thionyl chloride (1.05 g, 8.84 mmol) in anhydrous acetonitrile (0.6 mL) was heated at 80° C. for 30 minutes. The resultant mixture was concentrated under vacuum. The residue was dissolved in anhydrous acetonitrile (3 mL) and treated with a solution of dimethylamine in THF (1 mL, 2 M). The mixture was stirred at room temperature for one hour and treated with aqueous sodium hydroxide (0.5 mL, 1 M). After stirring at room temperature for one hour, the product mixture was concentrated under vacuum. The residue was subjected to reverse phase preparative HPLC purification. Collection and lyophilization of appropriate fractions provided the title compound.

reactant | 2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-4-sulfonic acid | 68 μmol, 32 mg | ClC=1C=C(CN2N=C(C3=C(C2=O)C(=C2N3CCN(C2=O)C)OC)S(=O)(=O)O)C=CC1F | C18H16ClFN4O6S
reactant | DMF | 0.14 mmol, 11 μL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 8.84 mmol, 1.05 g | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 0.6 mL | C(C)#N | C2H3N
product | 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-N,N,8-trimethyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-4-sulfonamide | ClC=1C=C(CN2N=C(C3=C(C2=O)C(=C2N3CCN(C2=O)C)OC)S(=O)(=O)N(C)C)C=CC1F | C20H21ClFN5O5S
